US08557893B2
Synthesis of N-methyl-N-[(2S,3R,4R,5R)-2,3,4,5,6-pentahydroxyhexyl]docosanamide Intermediate
N-Methyl glucamine (1.95 g, 10.0 mmol) was dissolved in 10 mL of 1.00 N sodium hydroxide solution and 10 mL of tetrahydrofuran. Docosanoyl chloride (3.58 g, 10.0 mmol) was then added to the rapidly stirred solution followed by another 20 mL portion of tetrahydrofuran. After stirring for 60 min, the thick reaction mixture was placed on a rotary evaporator and tetrahydrofuran was removed under reduced pressure. The resulting thick slurry was filtered, washed with water and dried with suction to give a waxy white solid. Chromatography (SiO2, 15%-30% MeOH/CHCl3) yielded 1.52 g of the following compound as a waxy solid.

reactant | N-Methyl glucamine | 10.0 mmol, 1.95 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | Docosanoyl chloride | 10.0 mmol, 3.58 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)Cl | C22H43ClO
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | sodium hydroxide | 1.00 N, 10 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-methyl-N-[(2S,3R,4R,5R)-2,3,4,5,6-pentahydroxyhexyl]docosanamide | 1.52 g | CN(C(CCCCCCCCCCCCCCCCCCCCC)=O)C[C@@H]([C@H]([C@@H]([C@@H](CO)O)O)O)O | C29H59NO6
